US05643950
4,5-Dihydro-2-{2-[4-(3,3,3-triphenylpropoxy)phenyl]ethyl}oxazole.
By the method of example 25, ethanolamine was converted to N-(2 -hydroxyethyl)-3-[4-(3,3,3-triphenylpropoxy)phenyl]propionamide. To this amide (400 mg; 0.84 mmol) in EtOAc (15 mL), was added dropwise over 5 minutes thionyl chloride (0.20 mL, 2.74 mmol) in EtOAc (2 mL) under a nitrogen atmosphere at room temperature. After stirring overnight, the precipitate was collected and washed with EtOAc to give the title compound (354.1 mg; 85% yield) as the hydrochloride monohydrate, a white powder. mp=130°-131° C. 1H NMR δ 7.19-7.34 (m, 15H), 7.02 (d, J=8.6 Hz, 2H), 6.62 (d, J=8.6 Hz, 2H), 3.70 (t, J=7.7 Hz, 2H), 3.53 (br s, 4H), 3.12 (t, J=7.7 Hz, 2H), 2.87 (t, J=7.5 Hz, 2H), 2.43 (t, J=7.5 Hz, 2H). IR 2954, 1513, 1245 cm-1. MS 462 (MH+), 243. Anal. calcd. for C32H31NO2.HCl.H2O: C, 74.48; H, 6.48; N, 2.71. Found: C, 74.26; H, 6.32; N, 2.70.

reactant | ethanolamine | C(O)CN | C2H7NO
reactant | N-(2 -hydroxyethyl)-3-[4-(3,3,3-triphenylpropoxy)phenyl]propionamide | OCCNC(CCC1=CC=C(C=C1)OCCC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C32H33NO3
reactant | thionyl chloride | 2.74 mmol, 0.20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | hydrochloride monohydrate | O.Cl
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
product | 4,5-Dihydro-2-{2-[4-(3,3,3-triphenylpropoxy)phenyl]ethyl}oxazole | 354.1 mg, 85% yield | C1(=CC=CC=C1)C(CCOC1=CC=C(C=C1)CCC=1OCCN1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H31NO2
